US07727979B2
3-bromo-4-oxo-1-phenyl-cyclohexanecarbonitrile (Starting Product for Example C-51)
The bromination of 4-oxo-1-phenyl-cyclohexanecarbonitrile takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 4-oxo-1-phenyl-cyclohexanecarbonitrile | O=C1CCC(CC1)(C#N)C1=CC=CC=C1 | C13H13NO
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 3-bromo-4-oxo-1-phenyl-cyclohexanecarbonitrile | BrC1CC(CCC1=O)(C#N)C1=CC=CC=C1 | C13H12BrNO
